### PR TITLE
feat(Generalized): prove `generalizedBoost_timeComponent_eq`

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR adds proofs autoformalised by @Aristotle-Harmonic.

The original statement used `‖...‖` (norm) but the correct formula uses `‖...‖ ^ 2`
(norm squared). A numerical counterexample for the original: u = (1,0), v = (cosh 1, sinh 1)
gives LHS = cosh 1 ≈ 1.543 but RHS with `‖·‖` ≈ 1.462.

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

### CODE REVIEW

File: PhysLean/Relativity/LorentzGroup/Boosts/Generalized.lean [hunk 1]
```diff
@@ -451,25 +451,27 @@ lemma generalizedBoost_inv (u v : Velocity d) :
...
-  sorry
+      v.1.timeComponent • u.1.spatialPart‖ ^ 2 / (1 + ⟪u.1, v.1⟫ₘ) := by
+  rw [generalizedBoost_apply_eq_toCoord]
+  simp only [Matrix.one_apply_eq, inl_0_inl_0, one_mul]
+  have h1 := Velocity.one_add_minkowskiProduct_ne_zero u v
+  rw [norm_sub_sq_real, norm_smul, norm_smul, Real.norm_eq_abs, Real.norm_eq_abs,
+    Velocity.timeComponent_abs u, Velocity.timeComponent_abs v,
+    real_inner_smul_left, real_inner_smul_right]
+  simp only [timeComponent, minkowskiProduct_eq_timeComponent_spatialPart] at *
+  field_simp [h1]
```
Comment (morrison-daniel) [inline PhysLean/Relativity/LorentzGroup/Boosts/Generalized.lean]:
```suggestion
  rw [norm_sub_sq_real, norm_smul, norm_smul, Real.norm_eq_abs, Real.norm_eq_abs,
    Velocity.timeComponent_abs u, Velocity.timeComponent_abs v,
    real_inner_smul_left, real_inner_smul_right]
  simp only [timeComponent, minkowskiProduct_eq_timeComponent_spatialPart] at *
  field_simp [Velocity.one_add_minkowskiProduct_ne_zero u v]
```
Is there a reason to not do this?

**Review by morrison-daniel — DISMISSED** [review]

**Comment by jstoobysmith** [comment]
Adding `awaiting-author` tag as this has not yet passed the linters

**Comment by morrison-daniel** [comment]
My suggestion broke it since it looks like the hypothesis was getting modified implicitly, so I'm reverting to the original and it should be back to working.

**Review by morrison-daniel — APPROVED** [review]
